US08440830B2
N-(2-aminophenyl)-5-(anilinocarbonothioyl)-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine-2-carboxamide
To a solution of N-(2-aminophenyl)-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine-2-carboxamide. obtained in step VIII of Example 1 (1 eq) in dichloromethane, a solution of isothiocynato benzene (1 eq) in dichloromethane was added and the reaction was stirred at room temperature for 3 h. Water was added and the organic layer was separated, dried over anhydrous Na2SO4 and concentrated under reduced pressure to afford crude product, which, on purification by column chromatography afforded the title compound.

reactant | N-(2-aminophenyl)-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine-2-carboxamide | NC1=C(C=CC=C1)NC(=O)C=1SC=2CNCCC2N1 | C13H14N4OS
reactant | isothiocynato benzene | 1 eq | N(=C=S)C1=CC=CC=C1 | C7H5NS
reactant | Water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-aminophenyl)-5-(anilinocarbonothioyl)-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine-2-carboxamide | NC1=C(C=CC=C1)NC(=O)C=1SC=2CN(CCC2N1)C(=S)NC1=CC=CC=C1 | C20H19N5OS2
